US08802679B2
To N-methyl-N-{[4′-(morpholin-4-yl)biphenyl-3-yl]methyl}glycinamide oxalate (100 mg) were added CHCl3 (10 ml) and a saturated aqueous sodium hydrogen carbonate solution (10 ml), followed by stirring for 10 minutes. The aqueous layer was extracted with chloroform (10 ml). The combined organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was dissolved in EtOH (2 ml), and succinic acid was added thereto, followed by stirring for 3 hours. The resulting crystal was filtered and washed with EtOH. The product residue was dried under reduced pressure and dried to obtain N-methyl-N-{[4′-(morpholin-4-yl)biphenyl-3-yl]methyl}glycinamide hemisuccinate (85 mg) as a colorless crystal.

reactant | N-methyl-N-{[4′-(morpholin-4-yl)biphenyl-3-yl]methyl}glycinamide oxalate | 100 mg | C(C(=O)O)(=O)O.CN(C(CN)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCOCC1
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-N-{[4′-(morpholin-4-yl)biphenyl-3-yl]methyl}glycinamide hemisuccinate | 85 mg | C(CCC(=O)O)(=O)O.CN(C(CN)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCOCC1.CN(C(CN)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCOCC1 | InChI=1S/2C20H25N3O2.C4H6O4/c2*1-22(20(24)14-21)15-16-3-2-4-18(13-16)17-5-7-19(8-6-17)23-9-11-25-12-10-23;5-3(6)1-2-4(7)8/h2*2-8,13H,9-12,14-15,21H2,1H3;1-2H2,(H,5,6)(H,7,8)
